US06953790B2
Step A. Methyl 3-[(1-benzylpiperidin-4-yl)amino]pyrazine-2-carboxylate
A mixture of methyl 2-bromopyrazine-3-carboxylate (J. Med. Chem., 1969, 12, 285) (2.2 g, 10.1 mmol) and 4-amino-1-benzylpiperidine (2.0 g, 10.5 mmol) was refluxed in 2-propanol overnight. Thin layer chromatography (10% methanol in ethyl acetate) showed the reaction was complete. The solvent was evaporated, and the crude product dissolved in chloroform (100 mL), which was washed with saturated sodium carbonate solution (20 mL), and dried over magnesium sulfate. The title compound was obtained as a gum (3.8 g). MS 327 (M+1).

reactant | methyl 2-bromopyrazine-3-carboxylate | 10.1 mmol, 2.2 g | BrC1=NC=CN=C1C(=O)OC | C6H5BrN2O2
reactant | 4-amino-1-benzylpiperidine | 10.5 mmol, 2.0 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | methanol | CO | CH4O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-[(1-benzylpiperidin-4-yl)amino]pyrazine-2-carboxylate | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C(=NC=CN1)C(=O)OC | C18H22N4O2
